US05559230
To 3-benzyloxycarbonylamino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (3.3 g) are added acetic acid (40 ml) and 10% Pd-C (0.4 g) and the reaction mixture is subjected to catalytic reduction at ordinary temperature under atmospheric pressure of hydrogen. One hour thereafter, the catalyst is removed by filtration and the filtrate is concentrated. The resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1), and recrystallized from ethanol to give 3-amino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (1.6 g) as white powder, m.p. 207°-210° C.

reactant | 3-benzyloxycarbonylamino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 3.3 g | C(C1=CC=CC=C1)OC(=O)NC1CN(C2=CC=CC=C2C1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C31H25Cl2N3O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 0.4 g | [Pd] | Pd
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-amino-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 1.6 g | NC1CN(C2=CC=CC=C2C1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C23H19Cl2N3O2
